US08217060B2
Step B: 2-Nitro-4-(2-trifluoromethyl-pyridin-4-yl)-phenylamine
Following the procedure as described in Example 2, STEP A, the title compound was prepared from 2-nitro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylamine (0.300 g, 1.14 mmol, as prepared in the previous step) and 4-chloro-2-trifluoromethyl-pyridine hydrochloride (322 mg, 1.48 mmol) and was obtained as an orange solid.

reactant | 2-nitro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylamine | [N+](=O)([O-])C1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)N | C12H17BN2O4
reactant | 4-chloro-2-trifluoromethyl-pyridine hydrochloride | 1.48 mmol, 322 mg | Cl.ClC1=CC(=NC=C1)C(F)(F)F
product | 2-Nitro-4-(2-trifluoromethyl-pyridin-4-yl)-phenylamine | [N+](=O)([O-])C1=C(C=CC(=C1)C1=CC(=NC=C1)C(F)(F)F)N | C12H8F3N3O2
